US03960868
A solution of 100 g of 3-carboethoxy-4-hydroxy-6-cycloheptyl-quinoline in 670 ml of phosphorus oxychloride is boiled for 21/2 hours under reflux, with exclusion of water. It is then evaporated to dryness in vacuo, the residue is partitioned between 3 times 500 ml of methylene chloride and 3 times 500 ml of 2 N sodium hydroxide solution and the organic solution is washed until neutral, dried over sodium sulphate and evaporated to dryness in vacuo. The evaporation residue is treated with active charcoal and then recrystallised twice from petroleum ether. 3-Carboethoxy-4-chloro-6-cycloheptyl-quinoline of melting point 61°-62°C is thus obtained.

reactant | 3-carboethoxy-4-hydroxy-6-cycloheptyl-quinoline | 100 g | C(=O)(OCC)C=1C=NC2=CC=C(C=C2C1O)C1CCCCCC1 | C19H23NO3
reactant | water | O | H2O
reactant | phosphorus oxychloride | 670 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Carboethoxy-4-chloro-6-cycloheptyl-quinoline | C(=O)(OCC)C=1C=NC2=CC=C(C=C2C1Cl)C1CCCCCC1 | C19H22ClNO2
